US08791255B2
In a round-bottomed flask, 374 mg of sodium hydride at 60% are introduced into 10 ml of tetrahydrofuran, 1 g of (5-amino-2-fluorophenyl)methanol and 0.441 ml of methyl iodide. After stirring at ambient temperature for one hour, a solution of sodium chloride and diethyl ether are added. The organic phase is extracted and then washed with water until pH=7. It is then dried over magnesium sulphate, filtered, and concentrated under reduced pressure. 900 mg of 4-fluoro-3-(methoxymethyl)aniline are obtained in the form of a black oil, which is used as it is in the next stage.

reactant | sodium hydride | 374 mg | [H-].[Na+]
reactant | (5-amino-2-fluorophenyl)methanol | 1 g | NC=1C=CC(=C(C1)CO)F | C7H8FNO
reactant | methyl iodide | 0.441 ml | CI | CH3I
reactant | sodium chloride | [Cl-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-fluoro-3-(methoxymethyl)aniline | 900 mg | FC1=C(C=C(N)C=C1)COC | C8H10FNO
